Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain

 
Major Surgical or Invasive Procedure:
___ paracenthesis 
 
History of Present Illness:
___ history of HCV genotype 2-B cirrhosis now with HCC dx 
___ now on C1D3 gem/doxil presents for abdominal pain. 

His oncologic hx briefly is as follows: In ___ had 
abodominal pain with a CT scan showing portal vein thrombosis 
with cavernous transformation. He also had an MRI at the same 
time that demonstrated no tumor. In early ___ was hospitalized 
for abdominal pain, and had had a triphasic CT scan of the 
abdomen and pelvis that demonstrated enhancement of at least two 
large cystic masses in the caudate lobe and segment IV measuring 
3.1 x 3.8 cm. He was treated at this time for cholangiitis.

He is now presenting with increased abdominal pain for 4 weeks. 
He reports the abdominal pain is sharpt, intermittent and 
diffuse across abdomen. The patient occasionally radiates to his 
back. He reports taking increasing dosing of NSAIDs because of 
the pain. He continues to pass flatus and has not had any major 
changes in his bowel movement. He also endorses associated 
nausea, but no vomiting. He denies any fevers, dysuria, dyspnea, 
or chest pain. 

In ED he initially reported ___ pain. Initial vitals were 97.9 
83 121/67 16 99% RA. Heme negative no stool in rectal vault. CBC 
and LFTs at baseline. Na 130 below relatively normal baseline. 
He was given 1mg IV Dilaudid x2 with improvement in pain. 
Abdominal CT was notable for cirrhosis, ascites, and tumor 
thromhus with cavernous transformation. There was also 
associated splenomegaly, paraesophageal, gastric, and rectal 
varices. Of note, there was not evidence of bowel obstruction. 

On arrival to the floor, the patient endorsed mild to moderate 
abdominal pain. He was requesting for food. He was ordered 
oxycodone PRN and bowel regimen. 

 
Past Medical History:
Hepatitis C - s/p failed trial of sovaldi 
GIB s/p 3U PRBCS during admission in ___/ S/p ___ at
? ___. He does not know what it showed
 
Social History:
___
___ History:
Mother died of dementia at ___.  
His father died of kidney failure at age ___

 
Physical Exam:
ON ADMISSION:
VS T 98 HR 76 BP 98/50 RR 18 SpO2 95% RA
GEN: Well-appearing in NAD
HEENT: Sclera anicteric. MMM, no OP lesions.
NECK: Supple, no cervical lymphadenopathy
COR: RRR, no m,r,g. Normal S1 and S2.
CHEST: No wheezing, crackles, or rhonci. 
ABD: Firm, moderately distended. +Fluid wave. Mild to moderate 
diffuse tenderness on palpation. Normoactive bowel sounds. 
PERIPHERAL: No ___ edema
SKIN: No jaundice, spider angiomas, palmar erythemas, or other 
stigmata of decompensated cirrhosis.
NEURO: No asterixis. Moving all extremities with purpose, no 
facial assymetry 

ON DISCHARGE:
VS Tmax 98.8 Tc 98.8 HR ___ BP 100-105/60-64 RR ___ SpO2 
96-100% RA, Wt 148.9 lb, I/O 24h 540/650, 8h NR/508
GEN: Well-appearing in NAD
HEENT: Sclera anicteric. MMM, no OP lesions.
NECK: Supple, no cervical lymphadenopathy
COR: RRR, no m,r,g. Normal S1 and S2.
CHEST: No wheezing, crackles, or rhonci. 
ABD: Firm, moderately distended. +Fluid wave. Mild to moderate 
diffuse tenderness on palpation. Normoactive bowel sounds. 
PERIPHERAL: No ___ edema
SKIN: No jaundice, spider angiomas, palmar erythemas, or other 
stigmata of decompensated cirrhosis.
NEURO: No asterixis. Moving all extremities with purpose, no 
facial assymetry 
 
Pertinent Results:
ADMISSION LABS:
___ 03:30AM BLOOD WBC-9.2 RBC-3.89* Hgb-9.0* Hct-27.5* 
MCV-71* MCH-23.1* MCHC-32.7 RDW-21.2* Plt ___
___ 03:30AM BLOOD Plt Smr-NORMAL Plt ___
___ 07:45AM BLOOD ___ PTT-28.2 ___
___ 03:30AM BLOOD Glucose-116* UreaN-20 Creat-0.7 Na-130* 
K-3.8 Cl-101 HCO3-21* AnGap-12
___ 03:30AM BLOOD ALT-82* AST-74* AlkPhos-303* TotBili-1.3
___ 03:30AM BLOOD Albumin-3.2*
___ 11:27PM URINE Hours-RANDOM Creat-130 Na-LESS THAN  K-33 
Cl-11
___ 11:27PM URINE Osmolal-823

IMAGING:

CT ABD & PELVIS WITH CO ___:
 
IMPRESSION: 
1. No evidence of small bowel obstruction. 
2. Cirrhosis with heterogeneous enhancement of the liver, 
consistent with the patient's history of infiltrative 
hepatocellular carcinoma.  Recommend MRI of the liver for 
further evaluation of the disease status. 
3. Tumor thrombus within the upper superior mesenteric vein and 
portal vein, with cavernous transformation of the portal vein, 
similar to prior. 
4. Sequela of portal hypertension including splenomegaly, 
paraesophageal, 
parasplenic, gastric, and rectal varices, and a moderate amount 
of ascites. 
5. Indeterminate left adrenal lesion, which may represent 
metastatic disease.  This could be further evaluated at the time 
of MRI for the liver. 

MRI ABDOMEN W/O & W/CON ___:
IMPRESSION: 
Limited study secondary to motion artifact.
1.  Cirrhosis with portal hypertension, splenomegaly and 
varices.
2.  Portal veins filled with tumor thrombus, but the primary 
tumor which
caused the portal vein thrombus cannot be identified with 
certainty.
3.  Moderate amount of ascites.

MR ___ & W/O CONT ___:
IMPRESSION: 
Multilevel multifactorial degenerative changes throughout the 
lumbar spine as described above.  There is no evidence of 
abnormal enhancement to indicate metastatic disease.

CHEST (PORTABLE AP) ___:
IMPRESSION:  
No acute intrathoracic process.  No pneumonia.

MICROBIOLOGY:

___ 10:00 pm BLOOD CULTURE     Site: ARM

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 10:10 pm BLOOD CULTURE     Site: ARM      #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 6:00 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    <10,000 organisms/ml. 

___ 10:15 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 1:50 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 9:04 am PERITONEAL FLUID      PERITONEAL FLUID. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Preliminary):    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

___ 7:16 am URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

DISCHARGE LABS:
___ 09:05AM BLOOD WBC-8.9 RBC-4.04* Hgb-9.4* Hct-29.0* 
MCV-72* MCH-23.3* MCHC-32.5 RDW-19.5* Plt ___
___ 09:05AM BLOOD Plt ___
___ 09:05AM BLOOD Glucose-109* UreaN-17 Creat-0.6 Na-128* 
K-4.6 Cl-95* HCO3-27 AnGap-11
___ 09:05AM BLOOD Calcium-8.0* Phos-2.4* Mg-2.0

___ 03:05PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:05PM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-MOD
___ 03:05PM URINE RBC-23* WBC-22* Bacteri-FEW Yeast-NONE 
Epi-0 TransE-<1
___ 03:05PM URINE Mucous-MOD
 
Brief Hospital Course:
___ M history of HCV genotype 2-B cirrhosis now with HCC dx 
___ now on C1D3 gem/doxil presenting with abdominal pain. 

# ABDOMINAL PAIN: Likely from HCC and associated tumor thrombus 
invading portal vein system. Patient also taking increased 
NSAIDS for back pain and may have some gastritis. TBili not 
elevated and patient not jaundice, less likely cholangitis. No 
evidence of bowel obstruction on CT. The patient had an 
___ paracentesis with 1.52 L fluid removed. Ascites fluid 
was negative for SBP. The patient was managed on Oxycontin 20 mg 
PO TID, PO oxycodone, bowel regimen, and continued on his home 
esomeprazole and sucralfate. At the time of discharge, the 
patient's abdominal pain was well-controlled. 

# HEPATOCELLULAR CARCINOMA: Diagnosed in ___. Pt s/p 1 cycle 
of C1D3 gem/doxil. Now with concern for tumor thrombus in portal 
vein with cavernous transformation. The patient was started on 
C2 of gemcitabine on ___. 

# HCV CIRRHOSIS: Patient with ascites on abdominal imaging. 
Clinically, the patient dids not appear to have acutely 
decompensated cirrhosis or fulminant hepatic failure. 
- Continued home Spironolactone 50 mg PO QDaily
- Continued home Furosemide 20 mg PO QDaily 
- Continued home Rifaxinin 550 mg PO BID 
- Started on Nadolol 40 mg PO QDaily for variceal bleeding ppx

# ANXIETY: 
-Continued home Lorazepam 0.5 mg PO Q6H:PRN Anxiety 

#URINARY RETENTION: Patient with new urinary retention. MRI 
lumbar spine was unremarkable for metastatic disease or cord 
compression. Likely from narcotic use. The patient had a coudet 
cath placed. Patient failed voiding trial and was discharged 
with urinary cath with Urology followup. 

# COMPLICATED UTI: During this hospitalization, the patient had 
some cognitive slowing and but otherwise without asterixis. UA 
was notable for positive leuks. Likely foley-associated. Patient 
started on CTX and transitioned to Bactrim DS PO BID x 10 days 
(last day ___.

# HYPONATREMIA: The patient became hyponatremic to Na 127 
(admission Na normal). Urine Na was undetectable by assay. 
Likely from poor PO/solute intake in the setting of abdominal 
pain. Patient also with known cirrhosis. The patient received 
albumin and fluid. Na was improving at discharge. 

TRANSITIONAL ISSUES:
[]CODE STATUS: Full
[]Pain regimen at discharge: Oxycontin 20 mg PO TID and 
oxycodone 5 mg PO 6H PRN pain
[]Patient discharged with Foley, will need to keep until Urology 
followup 
[]Patient discharged on Nadolol 40 mg PO QDaily 
[]Patient discharged with Bactrim DS PO BID x 10 days (last day 
___
[]Patient will have ___ draw labs (Chem 7) on ___ and faxed to 
PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
2. Rifaximin 550 mg PO BID 
3. Lorazepam 0.5 mg PO Q6H:PRN Anxiety 
4. Spironolactone 50 mg PO DAILY 
5. Furosemide 20 mg PO DAILY 
6. Sucralfate 1 gm PO TID Before meals 

 
Discharge Medications:
1. Furosemide 20 mg PO DAILY 
2. Lorazepam 0.5 mg PO Q6H:PRN Anxiety 
3. NexIUM (esomeprazole magnesium) 40 mg oral DAILY 
4. Rifaximin 550 mg PO BID 
5. Spironolactone 50 mg PO DAILY 
6. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*0
7. Nadolol 40 mg PO DAILY 
RX *nadolol 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
8. OxyCODONE SR (OxyconTIN) 20 mg PO Q8H 
RX *oxycodone [OxyContin] 20 mg 1 tablet(s) by mouth every eight 
(8) hours Disp #*90 Tablet Refills:*0
9. Polyethylene Glycol 17 g PO DAILY:PRN Constipation 
RX *polyethylene glycol 3350 17 gram/dose 1 powder(s) by mouth 
once a day Refills:*0
10. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Capsule Refills:*0
11. Sucralfate 1 gm PO TID Before meals 
12. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN Pain 
RX *oxycodone 5 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*28 Capsule Refills:*0
13. Prescription for Labs
Hyponatremia. ICD-9 276.1. Please draw labs/Chem 7 on ___. 
Please fax to PCP: Dr. ___: ___  (Phone: 
___

14. Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*17 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Abdominal Pain
Abdominal Ascites
Urinary Incontinence
Urinary Tract Infection
Hepatocellular Carcinoma
Hepatitis C Cirrhosis

Secondary:
Anxiety 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you during your hospitalization at 
the ___. As you know, you were 
admitted with abdominal pain. We did tests which showed fluid in 
your abdomen and your known liver cancer and clot in the blood 
vessel of your liver. We did a test of the fluid in your abdomen 
which did not show any infection. Your were started on a 
medication called nadolol to prevent/reduce your risk of 
bleeding in the setting of your liver disease called cirrhosis. 
During this hospitalziation, you were unable to fully empty your 
bladder on your own and we placed a tube which you continued to 
require. You will need to keep the urinary tube until you 
followup with the Urologists. You also were found to have a 
urinary tract infection and you were treated with antibiotics. 
If you develop any fevers, chills, pain, nausea, vomiting, 
cloudy or malodorous urine, please alert your doctor 
immediately.  You received chemotherapy during this 
hospitalization. Please take your medications as instructed. 
Please followup with your cancer doctor.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___